US06136823
Synthesis of Ethyl 7-Azido-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
Sodium azide (500 mg) was added to a solution of ethyl 1-(5-tert-butoxycarbonylamino-2 4-difluorophenyl)-8-chloro-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (2 g) in N,N-dimethylformamide (20 ml), and the mixture was heated and stirred at 70° C. for 4 hours. After water and ethyl acetate were added to the reaction mixture, and an organic layer was collected and dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was subjected to column chromatography on silica gel to conduct elution with chloroform, thereby obtaining the title compound (1.75 g) as a brown oil.

reactant | Sodium azide | 500 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 1-(5-tert-butoxycarbonylamino-2 4-difluorophenyl)-8-chloro-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2 g | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C(=C12)Cl)F)F)C)=O)C(=O)OCC)F)F | C24H21ClF4N2O5
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 7-Azido-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.75 g | N(=[N+]=[N-])C1=C(C(=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)C)F | C24H21ClF3N5O5
